US07557133B2
Ethyl 3-(benzothiophen-2-yl)-5-ethyl-4,5-dihydro-5-isoxazolecarboxylate (VIh)
Benzothiophen-2-aldehyde oxime derivative (400 mg, 2.26 mmol) prepared according to the same procedure as Preparation 1 was dissolved in THF (25 ml), and the mixture was kept at 0□. Ethyl 2-ethylacrylate (434 mg, 1.5 Eq) and triethylamine (7 drops) were dissolved in THF (5 ml), thus obtained solution was slowly added to the above, and sodium hypochlorite solution (6.0 ml) was further added. The reaction solution was warmed to room temperature and stirred for 4 hours. Water (20 ml) was added, and the mixture was extracted with ethyl acetate (40 ml×2), washed with aqueous sodium chloride solution (20 ml), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography (20% ethyl acetate-hexane) to give the title compound (121 mg, Yield 18%).

reactant | Benzothiophen-2-aldehyde oxime | 2.26 mmol, 400 mg | S1C(=CC2=C1C=CC=C2)C=NO | C9H7NOS
reactant | Ethyl 2-ethylacrylate | 434 mg, 1.5 Eq | C(C)C(C(=O)OCC)=C | C7H12O2
reactant | sodium hypochlorite | 6.0 ml | Cl[O-].[Na+]
reactant | Water | 20 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | triethylamine | 7 drops | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(benzothiophen-2-yl)-5-ethyl-4,5-dihydro-5-isoxazolecarboxylate | 121 mg, Yield 18% | S1C(=CC2=C1C=CC=C2)C2=NOC(C2)(C(=O)OCC)CC | C16H17NO3S
